US08071779B2
2,2-Dimethyl-1-(5-(1-(3-(methylthio)benzoyl)piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one
To a solution of 3-(methylthio)benzoic acid (200 mg, 1.2 mmol) in DMF (4.5 mL) was added in succession N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydroiodide (345 mg, 1.75 mmol) 1-hydroxybenzotriazole hydrate (186 mg, 1.2 mmol) and diisopropylethylamine (0.630 mL, 3.6 mmol). After stirring at room temperature for 10 min, 2,2-dimethyl-1-(5-(piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one (300 mg, 1.0 mmol) was added in one portion. The solution was stirred under a nitrogen atmosphere overnight. The solution was poured into 1.0 M HCl (20 mL), extracted twice with EtOAc, and the organic phases were washed with 10% NaOH, dried over Na2SO4 and evaporated. Chromatography of the residue on silica gel, eluting with EtOAc/heptane, gave the title compound as a pale yellow foam (240 mg, 53%).

reactant | 3-(methylthio)benzoic acid | 1.2 mmol, 200 mg | CSC=1C=C(C(=O)O)C=CC1 | C8H8O2S
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydroiodide | 1.75 mmol, 345 mg | I.CN(CCCN=C=NCC)C
reactant | diisopropylethylamine | 3.6 mmol, 0.630 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,2-dimethyl-1-(5-(piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one | 1.0 mmol, 300 mg | CC(C(=O)N1N=CC2=CC(=CC=C12)NC1CNCCC1)(C)C | C17H24N4O
reactant | HCl | 1.0 M, 20 mL | Cl | ClH
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-1-(5-(1-(3-(methylthio)benzoyl)piperidin-3-ylamino)-1H-indazol-1-yl)propan-1-one | 240 mg, 53% | CC(C(=O)N1N=CC2=CC(=CC=C12)NC1CN(CCC1)C(C1=CC(=CC=C1)SC)=O)(C)C | C25H30N4O2S
